US05739083
Preparation of 3-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylsulfenyl-1-phenylpyrazole (compound 17)
Phenylhydrazine (0.11 ml) was added to a solution of 0.8 g of 3,3-bis[methylthio]-1-(2,6-dichloro-4-trifluoromethylphenyl)-2-propen-1-one in 10 ml of ethanol at room temperature, and the mixture was refluxed for 1 hour. The solvent was distilled of under reduced pressure to obtain a residue, which was purified by column chromatography on silica gel (eluent: ether/hexane=1/6), giving 0.17 g of the desired compound in the form of a pale brown oil (yield 43.6%).

reactant | Phenylhydrazine | 0.11 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | 3,3-bis[methylthio]-1-(2,6-dichloro-4-trifluoromethylphenyl)-2-propen-1-one | 0.8 g | CSC(=CC(=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC | C12H9Cl2F3OS2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylsulfenyl-1-phenylpyrazole | 0.17 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C1=NN(C(=C1)SC)C1=CC=CC=C1 | C17H11Cl2F3N2S
